US04675397
Under ice-cooling and stirring, 12 ml of an aqueous solution containing 570 mg of sodium borohydride is added to a solution of 2.06 g of cis-1-(2,4-dimethoxybenzyl)-3-phenylacetamido-2-oxoazetidine-4-carboxylic acid methyl ester in 24 ml of tetrahydrofuran. The reaction mixture is stirred for 30 minutes under ice-cooling and then for 1.5 hours at room termperature. The tetrahydrofuran is distilled off in vacuo and an aqueous sodium chloride solution and ethyl acetate are added to the residue. The resulting ethyl acetate layer is separated and washed successively with an aqueous sodium hydrogen carbonate and an aqueous sodium chloride. It is then dried over magnesium sulfate and the solvent is distilled off in vacuo. Ether is added to the residue and the precipitated crystals are collected by filtration to give 1.75 g (91%) of cis-1-(2,4-dimethoxybenzyl)-4-hydroxymethyl-3-phenylacetamido-2-oxoazetidine, m.p. 152°-154° C.

reactant | sodium borohydride | 570 mg | [BH4-].[Na+]
reactant | cis-1-(2,4-dimethoxybenzyl)-3-phenylacetamido-2-oxoazetidine-4-carboxylic acid methyl ester | 2.06 g | COC(=O)[C@@H]1[C@@H](C(N1CC1=C(C=C(C=C1)OC)OC)=O)NC(CC1=CC=CC=C1)=O | C22H24N2O6
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
product | cis-1-(2,4-dimethoxybenzyl)-4-hydroxymethyl-3-phenylacetamido-2-oxoazetidine | 1.75 g, 91% | COC1=C(CN2C([C@H]([C@H]2CO)NC(CC2=CC=CC=C2)=O)=O)C=CC(=C1)OC | C21H24N2O5
